US07767675B2
Step 2. methyl 2-chloro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoate
A mixture of methyl 4-(2-aminopyrimidin-5-yl)-2-chlorobenzoate (0.22 g, 0.83 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (0.20 g, 0.83 mmol) in ethanol (6 mL) was stirred at 100° C. overnight. The reaction mixture was concentrated to afford the crude product which was directly used for next step. LCMS: (M+H)=455.1/457.1.

reactant | methyl 4-(2-aminopyrimidin-5-yl)-2-chlorobenzoate | 0.83 mmol, 0.22 g | NC1=NC=C(C=N1)C1=CC(=C(C(=O)OC)C=C1)Cl | C12H10ClN3O2
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.83 mmol, 0.20 g | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | methyl 2-chloro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoate | ClC1=C(C(=O)OC)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C26H19ClN4O2
